US07297700B2
To a solution of 2-adamantan-1-yl-N-(7-benzyl-5,6,7,8-tetrahydro-pyrido[3,4-d]pyrimidin 4-yl)-acetamide in glacial acetic acid (15 mL) in a 250 ml round bottom flask was added 10% Pd/C (0.45 g). The resulting mixture was stirred for 15 h under an atmosphere of hydrogen (via a balloon), which was introduced after evacuation of air from the reaction vessel. The reaction was then filtered over celite, washed with EtOAc (20 mL) and the filtrate concentrated under reduced pressure. The residue was re-dissolved on EtOAc (50 mL) and stirred with aq. 10% NaOH solution (50 mL) for 1 h. The layers were separated and the aqueous layer washed with EtOAc (5×50 mL). The combined organics were dried over anhyd. Na2SO4, filtered and concentrated to yield 2-adamantan-1-yl-N-(5,6,7,8-tetrahydro-pyrido[3,4-d]pyrimidin-4-yl)-acetamide (0.68 g, 2.1 mmol, 87%) as a tan colored solid. LCMS (ESI+) m/z 327.3 [M+H]+

reactant | 2-adamantan-1-yl-N-(7-benzyl-5,6,7,8-tetrahydro-pyrido[3,4-d]pyrimidin 4-yl)-acetamide | C12(CC3CC(CC(C1)C3)C2)CC(=O)NC=2C3=C(N=CN2)CN(CC3)CC3=CC=CC=C3 | C26H32N4O
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
catalyst | Pd/C | 0.45 g | [Pd] | Pd
product | 2-adamantan-1-yl-N-(5,6,7,8-tetrahydro-pyrido[3,4-d]pyrimidin-4-yl)-acetamide | 2.1 mmol, 0.68 g, 87% | C12(CC3CC(CC(C1)C3)C2)CC(=O)NC=2C3=C(N=CN2)CNCC3 | C19H26N4O
